*============================*
*  Idealized Level-1 Models *
*============================*

* NMOS Model
.model IDEAL_NMOS NMOS (LEVEL=1 VTO=0.4 KP=120u LAMBDA=0.02 PHI=0.6 GAMMA=0.5)

* PMOS Model
.model IDEAL_PMOS PMOS (LEVEL=1 VTO=-0.4 KP=40u LAMBDA=0.02 PHI=0.6 GAMMA=0.5)

*==============================*
*  NMOS Subcircuit Declaration *
*==============================*
* Nodes: Drain Gate Source Bulk
.subckt NMOS_SUBCKT D G S B W=10u L=0.18u
M1 D G S B IDEAL_NMOS W={W} L={L}
.ends NMOS_SUBCKT

*==============================*
*  PMOS Subcircuit Declaration *
*==============================*
* Nodes: Drain Gate Source Bulk
.subckt PMOS_SUBCKT D G S B W=10u L=0.18u
M1 D G S B IDEAL_PMOS W={W} L={L}
.ends PMOS_SUBCKT
